### PR TITLE
[Merged by Bors] - feat(Analysis): (complex) polynomials as branched coverings

### PR DESCRIPTION
**Pull request by alreadydone**
originally proposed by @urkud in #33425

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/CoveringMap.lean [hunk 1]
```diff
@@ -5,10 +5,10 @@ Authors: Junyan Xu
 -/
 module
 
-public import Mathlib.Analysis.SpecialFunctions.Complex.Circle
 public import Mathlib.Analysis.SpecialFunctions.Complex.LogDeriv
-public import Mathlib.RingTheory.RootsOfUnity.Complex
-public import Mathlib.Topology.Covering.AddCircle
+public import Mathlib.Analysis.Calculus.Deriv.Polynomial
```
Comment (alreadydone) [inline Mathlib/Analysis/Complex/CoveringMap.lean:9]: I'm not sure whether this is the right file for the main result: it applies to any `NontriviallyNormedField` that is a `ProperSpace` (think locally compact) but of course ℂ is the main case of interest.

This is the import with the highest transitive imports (1655), but importing the other requisites would result in 1754 total imports and a large-import warning.

File: Mathlib/Analysis/Complex/CoveringMap.lean [hunk 2]
```diff
@@ -38,3 +40,18 @@ theorem isCoveringMapOn_exp : IsCoveringMapOn Complex.exp {0}ᶜ :=
...
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] [ProperSpace 𝕜] (p : 𝕜[X])
+
+theorem isCoveringMapOn_eval :
+    IsCoveringMapOn p.eval (p.eval '' {k | p.derivative.eval k = 0})ᶜ := by
+  refine p.isClosedMap_eval.isCoveringMapOn_of_openPartialHomeomorph (fun x hx ↦ ?_)
+    fun x hx ↦ ⟨_, ((p.hasStrictDerivAt x).hasStrictFDerivAt_equiv
+      fun h ↦ hx ⟨x, h, rfl⟩).mem_toOpenPartialHomeomorph_source, by simp⟩
+  obtain rfl | ne := eq_or_ne p (C x)
+  · simp at hx
+  · simpa only [preimage_eval_singleton ne] using rootSet_finite ..
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/CoveringMap.lean:55]: Can you also show this for the more specific setting of `· ^ n`?

File: Mathlib/Topology/Covering/Basic.lean [hunk 3]
```diff
@@ -486,3 +490,90 @@ Then `f` admits a `Trivialization` over the base set `V`. -/
...
+      (htx he'.2).trans (htx he).symm) <| Set.singleton_subset_iff.mpr ⟨hφ, he⟩⟩
+
+open Set in
+/-- If `f : E → X` is a closed map between topological spaces with `E` Hausdorff, such that the
+fiber over a point `x : X` is finite and `f` restricts to a homeomorphism on a neighborhood of
+every point of the fiber, then `x` admits an evenly covered neighborhood. -/
+theorem IsClosedMap.isEvenlyCovered_of_openPartialHomeomorph [T2Space E] {x : X}
+    (hf : IsClosedMap f) (fin : (f ⁻¹' {x}).Finite)
+    (h : ∀ e ∈ f ⁻¹' {x}, ∃ φ : OpenPartialHomeomorph E X, e ∈ φ.source ∧ φ = f) :
+    IsEvenlyCovered f x (f ⁻¹' {x}) := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Covering/Basic.lean:512]: The proof of this is readable, but it would be even better if you sketch the idea as you go about the proof.
1. Take some neighborhoods of each point in the preimage with some partial homeomorphisms.
2. Intersect them with some open sets to ensure they are disjoint.
3.  Their union is a neighborhood of the preimage of `x`, and because `f` is closed there is some open neighborhood `U` of `x` containing the image of the union.
4. Intersect `U` with the images of each of neighborhoods of the to get an open set containing `x`. This `U` is the necessary evenly covered neighborhood of `x`.

Of course, you're welcome to add more detail than this.

File: Mathlib/Analysis/Complex/CoveringMap.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Analysis/Complex/CoveringMap.lean:55]: That's done in [another PR](https://github.com/leanprover-community/mathlib4/pull/33766/files#diff-c259d20d5291444ee038115f9fad436d04b47a1c52bb64be1fef769ea518bb83R63-R68); I wanted to allow `n` to be an integer, which requires `Homeomorph.inv₀` not available in this PR.

File: Mathlib/Topology/Covering/Basic.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Topology/Covering/Basic.lean:512]: Thanks! In step 3, it's rather that the union of neighborhoods of preimages of `x` contains the preimage of some neighborhood of `x`, i.e. they are "exhaustive", or intuitively there's no preimage of `x` that escapes to infinity. I'll add some comments to the proof as you suggest.

Comment (alreadydone) [reply Mathlib/Topology/Covering/Basic.lean:512]: Originally I had in mind a counting argument for complex polynomials (the number of preimages of a regular value is equal to the degree `n`, so disjoint neighborhoods of the preimages must be exhaustive, since each point has at most `n` preimages). But this argument works only for algebraically closed fields, is harder to formalize, while the approach via closed maps unify the polynomial case and the compact case, which is why it's adopted.
I intended to use compactness to show that a sequence of points upstairs whose images converge to `x` must have an accumulation point which must be a preimage of `x` (which was the reason for #33720), but using IsClosedMap turns out to be much cleaner.
I recall I found IsClosedMap by Loogling `Filter.comap` / `Set.preimage` / `nhdsSet` etc.

File: Mathlib/Topology/Covering/Basic.lean [hunk 4]
```diff
@@ -486,3 +490,90 @@ Then `f` admits a `Trivialization` over the base set `V`. -/
...
+  have ⟨V, hV, disj⟩ := fin.t2_separation
+  let V' (e : f ⁻¹' {x}) := V e ∩ (φ e).source
+  have hV' e : IsOpen (V' e) := (hV e).2.inter (φ e).open_source
+  have : ⋃ e, V' e ∈ nhdsSet (f ⁻¹' {x}) :=
+    (isOpen_iUnion hV').mem_nhdsSet.2 fun e he ↦ mem_iUnion_of_mem ⟨e, he⟩ ⟨(hV e).1, (hφ _).1⟩
+  have ⟨W, hWx, hWV⟩ := isClosedMap_iff_comap_nhds_le.mp hf this
+  cases isEmpty_or_nonempty (f ⁻¹' {x})
+  · exact .of_preimage_eq_empty _ hWx (by simpa using hWV)
+  have ⟨U, hUW, hU, hxU⟩ := mem_nhds_iff.mp hWx
+  let U' := U ∩ ⋂ e : f ⁻¹' {x}, f '' (V' e)
```
Comment (alreadydone) [inline Mathlib/Topology/Covering/Basic.lean:531]:
```suggestion
  /- for each preimage e of x, choose a homeomorphism φₑ
    from a neighborhood of e to its image -/
  choose φ hφ using fun e : f ⁻¹' {x} ↦ h e e.2
  -- separately, choose pairwise disjoint neighborhoods Vₑ by Hausdorff-ness
  have ⟨V, hV, disj⟩ := fin.t2_separation
  -- let Vₑ' be the intersection Vₑ ∩ dom(φₑ)
  let V' (e : f ⁻¹' {x}) := V e ∩ (φ e).source
  have hV' e : IsOpen (V' e) := (hV e).2.inter (φ e).open_source
  have : ⋃ e, V' e ∈ nhdsSet (f ⁻¹' {x}) :=
    (isOpen_iUnion hV').mem_nhdsSet.2 fun e he ↦ mem_iUnion_of_mem ⟨e, he⟩ ⟨(hV e).1, (hφ _).1⟩
  -- since f is a closed map, the union of the Vₑ' contains the preimage of a neighborhood U ∋ x
  have ⟨W, hWx, hWV⟩ := isClosedMap_iff_comap_nhds_le.mp hf this
  cases isEmpty_or_nonempty (f ⁻¹' {x})
  · exact .of_preimage_eq_empty _ hWx (by simpa using hWV)
  have ⟨U, hUW, hU, hxU⟩ := mem_nhds_iff.mp hWx
  -- show that the intersection of U with the images of Vₑ' is evenly covered
  let U' := U ∩ ⋂ e : f ⁻¹' {x}, f '' (V' e)
```

File: Mathlib/Topology/Covering/Basic.lean [hunk 5]
```diff
@@ -486,3 +490,96 @@ Then `f` admits a `Trivialization` over the base set `V`. -/
...
+    from a neighborhood of e to its image -/
+  choose φ hφ using fun e : f ⁻¹' {x} ↦ h e e.2
+  -- separately, choose pairwise disjoint neighborhoods Vₑ by Hausdorff-ness
+  have ⟨V, hV, disj⟩ := fin.t2_separation
+  -- let Vₑ' be the intersection Vₑ ∩ dom(φₑ)
+  let V' (e : f ⁻¹' {x}) := V e ∩ (φ e).source
+  have hV' e : IsOpen (V' e) := (hV e).2.inter (φ e).open_source
+  have : ⋃ e, V' e ∈ nhdsSet (f ⁻¹' {x}) :=
+    (isOpen_iUnion hV').mem_nhdsSet.2 fun e he ↦ mem_iUnion_of_mem ⟨e, he⟩ ⟨(hV e).1, (hφ _).1⟩
+  -- since f is a closed map, the union of the Vₑ' contains the preimage of a neighborhood U ∋ x
```
Comment (alreadydone) [inline Mathlib/Topology/Covering/Basic.lean]:
```suggestion
  -- since f is a closed map, the union of the Vₑ' contains the preimage of a neighborhood U of x
```

File: Mathlib/Analysis/Complex/CoveringMap.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Complex/CoveringMap.lean:9]: Given that the downstream import increases are just +1 or +2 for all other files, I think this is reasonable. If I saw the name `Analysis/Complex/CoveringMap.lean`, I would certainly expect this result to be in this file.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
